**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*Commercial Use or Resale Restricted *
*   by Symmetry License Agreement    *
**************************************
* Model generated on Jul  5, 96
* Model format: SPICE3
* Symmetry POWER MOS Model (Version 1.0)
* External Node Designations
* Node 1 -> Drain
* Node 2 -> Gate
* Node 3 -> Source
.SUBCKT irf7606 1 2 3
M1 9 7 8 8 MM L=100u W=100u
* Default values used in MM:
* The voltage-dependent capacitances are
* not included. Other default values are:
*   RS=0 RD=0 LD=0 CBD=0 CBS=0 CGBO=0
.MODEL MM PMOS (LEVEL=1 IS=1e-32
+VTO=-2.10799 LAMBDA=0.0214554 KP=6.27074
+CGSO=3.78984e-06 CGDO=2.7957e-07)
RS 8 3 0.0682456
D1 1 3 MD
.MODEL MD D (IS=7.65243e-12 RS=0.0401808 N=1.13471 BV=30
+IBV=0.00025 EG=1.2 XTI=4 TT=1e-07
+CJO=4.78731e-10 VJ=0.791296 M=0.39958 FC=0.1)
RDS 3 1 2.4e+07
RD 9 1 0.0001
RG 2 7 8.38906
D2 5 4 MD1
* Default values used in MD1:
*   RS=0 EG=1.11 XTI=3.0 TT=0
*   BV=infinite IBV=1mA
.MODEL MD1 D (IS=1e-32 N=50
+CJO=7.7286e-10 VJ=0.5 M=0.581387 FC=1e-08)
D3 5 0 MD2
* Default values used in MD2:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   BV=infinite IBV=1mA
.MODEL MD2 D (IS=1e-10 N=0.444371 RS=3e-06)
RL 5 10 1
FI2 7 9 VFI2 -1
VFI2 4 0 0
EV16 10 0 9 7 1
CAP 11 10 8.49752e-10
FI1 7 9 VFI1 -1
VFI1 11 6 0
RCAP 6 10 1
D4 6 0 MD3
* Default values used in MD3:
*   EG=1.11 XTI=3.0 TT=0 CJO=0
*   RS=0 BV=infinite IBV=1mA
.MODEL MD3 D (IS=1e-10 N=0.444371)
.ENDS

